US06727264B1
N-(3-{1-[6-(2-FLUOROPHENYL)-6-OXOHEXYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE:
Prepared by Procedure K and Scheme E using K2CO3 instead of Na2CO3 and NaI instead of KI and 6-chloro-1-(2-fluorophenyl)-1-hexanone and 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 439.2 (M+H)+.

reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | NaI | [Na+].[I-]
reactant | 6-chloro-1-(2-fluorophenyl)-1-hexanone | ClCCCCCC(=O)C1=C(C=CC=C1)F | C12H14ClFO
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
product | N-(3-{1-[6-(2-FLUOROPHENYL)-6-OXOHEXYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE | FC1=C(C=CC=C1)C(CCCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)=O | C27H35FN2O2
